US08258138B2
ii) (4-Benzylamino-phenyl)-piperidin-1-yl-methanone
To a stirred suspension of 4-(benzylamino)benzoic acid (200 mg, 0.88 mmol) in acetonitrile (2 ml) was added piperidine (0.174 ml, 1.8 mmol), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (184 mg, 0.97 mmol), hydroxybenzotriazole hydrate (10 mg, catalytic) followed by triethylamine (0.31 ml, 2.2 mmol) and the reaction was stirred at room temperature for 16 hours. The reaction mixture was diluted with water (2 ml) and extracted with dichloromethane (2×2 ml). The organic phases were combined, washed with brine, dried over magnesium sulfate and then concentrated in vacuo. The residue was purified by flash column chromatography (SiO2) eluting with ethyl acetate/dichloromethane (1:4) to afford the title compound as an off white solid (122 mg, 47% yield).

reactant | 4-(benzylamino)benzoic acid | 0.88 mmol, 200 mg | C(C1=CC=CC=C1)NC1=CC=C(C(=O)O)C=C1 | C14H13NO2
reactant | piperidine | 1.8 mmol, 0.174 ml | N1CCCCC1 | C5H11N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.97 mmol, 184 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole hydrate | 10 mg | O.OC1=CC=CC=2NN=NC21
reactant | triethylamine | 2.2 mmol, 0.31 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | water | 2 ml | O | H2O
product | (4-Benzylamino-phenyl)-piperidin-1-yl-methanone | C(C1=CC=CC=C1)NC1=CC=C(C=C1)C(=O)N1CCCCC1 | C19H22N2O
